US05055601
Synthesis of 3-Iodopentafluoro-1,2-epoxypropane
In a 1000-ml flask equipped with a stirring apparatus and a thermometer were charged 100 ml of m-xylene, 500 ml of a sodium hypochlorite aqueous solution having a 12% available chlorine content and containing 5.0 g of sodium hydroxide, 20.0 g (77.5 mmols) of 3-iodopentafluoropropene and 0.25 g (0.6 mmol) of TOMAC as a catalyst. After the reaction liquid was cooled to -10° C., the reaction liquid was stirred with the stirring apparatus to initiate the reaction. The reaction was continued while maitaining the reaction temperature at -10° C. After the 15 minutes of reaction time lapsed, the conversion of 3-iodopentafluoropropene became almost 100%. Then the reaction liquid was cooled to -30° C. to freeze the aqueous phase, and the organic phase was separated therefrom. After the organic phase was dried over anhydrous sodium sulfate, the product was isolated from the organic phase through fractional distillation twice. Thus, 8.7 g (yield, 41%) of the captioned compound having a boiling point of 52° C. was obtained.

reactant | sodium hypochlorite | 500 ml | Cl[O-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | 3-iodopentafluoropropene | IC(C(=C(F)F)F)(F)F | C3F5I
catalyst | sodium hydroxide | 5.0 g | [OH-].[Na+]
catalyst | 3-iodopentafluoropropene | 77.5 mmols, 20.0 g | IC(C(=C(F)F)F)(F)F | C3F5I
catalyst | TOMAC | 0.6 mmol, 0.25 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | m-xylene | 100 ml | C1(=CC(=CC=C1)C)C | C8H10
product | 3-Iodopentafluoro-1,2-epoxypropane | IC(C1(C(O1)(F)F)F)(F)F | C3F5IO
